US09029549B2
Ethyl 2-(1-{[4-chloro-5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate (IV-6)
4-[4-(Ethoxycarbonyl)-1,3-thiazol-2-yl]piperidinium chloride (VI-1, 5.50 g) is reacted analogously to Example IV-1 with [4-chloro-5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid (4.82 g). This gives, after chromatographic purification, ethyl 2-(1-{[4-chloro-5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate (6.00 g, 65%).

reactant | 4-[4-(Ethoxycarbonyl)-1,3-thiazol-2-yl]piperidinium chloride | 5.50 g | [Cl-].C(C)OC(=O)C=1N=C(SC1)C1CC[NH2+]CC1
reactant | [4-chloro-5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid | 4.82 g | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | Ethyl 2-(1-{[4-chloro-5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate | ClC=1C(=NN(C1C)CC(=O)N1CCC(CC1)C=1SC=C(N1)C(=O)OCC)C(F)(F)F | C18H20ClF3N4O3S
